US08202873B2
N-{4-[4-(3,5-Dimethyl-1-pyridin-2-yl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-acetamide hydrochloride
Add sodium triacetoxyborohydride (231 mg, 1.04 mmol) to a solution of N-[4-(3,4,5,6-Tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-benzyl]-acetamide (215 mg, 0.69 mmol) and 3,5-dimethyl-1-pyridin-2-yl-1H-pyrazole-4-carboxaldehyde (208 mg, 1.03 mmol) in THF (3.5 mL). Maintain stirring for 3 hr. and quench by adding NaHCO3 (5 mL). Extract with DCM (3×10 mL) and discard the aq. phase filtering through an IST phase separator Frit®. Concentrate to dryness and purify by preparative HPLC then purify by SCX-2® ion exchange chromatography, eluting with 2 M NH3 in MeOH to give the free base. Prepare the hydrochloride salt by adding HCl and lyophilise the solution to give the title compound (200 mg, 54%). MS (ES): m/z=497 [M+H]+.

reactant | sodium triacetoxyborohydride | 1.04 mmol, 231 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-[4-(3,4,5,6-Tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-benzyl]-acetamide | 0.69 mmol, 215 mg | N1(CCNCC1)C1=NC=CN=C1C1=CC=C(CNC(C)=O)C=C1 | C17H21N5O
reactant | 3,5-dimethyl-1-pyridin-2-yl-1H-pyrazole-4-carboxaldehyde | 1.03 mmol, 208 mg | CC1=NN(C(=C1C=O)C)C1=NC=CC=C1 | C11H11N3O
reactant | HCl | Cl | ClH
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | N-{4-[4-(3,5-Dimethyl-1-pyridin-2-yl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-acetamide hydrochloride | 200 mg, 54% | Cl.CC1=NN(C(=C1CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(CNC(C)=O)C=C1)C)C1=NC=CC=C1 | InChI=1S/C28H32N8O.ClH/c1-20-25(21(2)36(33-20)26-6-4-5-11-29-26)19-34-14-16-35(17-15-34)28-27(30-12-13-31-28)24-9-7-23(8-10-24)18-32-22(3)37;/h4-13H,14-19H2,1-3H3,(H,32,37);1H
